US05310743
(2R*,4S*)-2-Benzyl-1-(2-quinolinylcarbonyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
97 mg (0.56 mmol) of quinoline-2-carboxylic acid are reacted in analogy to Example 2j first with 58 μl (0.795 mmol) of thionyl chloride and subsequently with 200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine to give the product. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.45, FD-MS: M+ =582.

reactant | quinoline-2-carboxylic acid | 0.56 mmol, 97 mg | N1=C(C=CC2=CC=CC=C12)C(=O)O | C10H7NO2
reactant | thionyl chloride | 0.795 mmol, 58 μl | S(=O)(Cl)Cl | Cl2OS
reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | ammonia | N | H3N
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | (2R*,4S*)-2-Benzyl-1-(2-quinolinylcarbonyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(=O)C1=NC2=CC=CC=C2C=C1 | C34H29F3N4O2
